US08608899B2
Reaction product of N,N-dimethylurea/bisphenol A diglycidyl ether (“C-4”)
20.0 g (approx. 116 mmol epoxy groups) of distilled bisphenol A diglycidyl ether (Epilox A 17-01), 10.0 g (113.5 mmol) of N,N-dimethylurea, and 40 mL ethanol were added to a 250 mL two-necked flask with a reflux condenser. It was refluxed for 7 h at 90° C.; only traces of N,N-dimethylurea were still detectable toward the end of the reaction. After the solvent had been driven off at 60° C. on the rotary evaporator, approx. 30 g of a highly viscous, partially waxy material with a “urea equivalent weight” of approx. 258 g/eq was obtained.

reactant | bisphenol A diglycidyl ether | approx. 116 mmol, 20.0 g | C(C1CO1)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC1CO1 | C21H24O4
reactant | N,N-dimethylurea | 113.5 mmol, 10.0 g | CN(C(=O)N)C | C3H8N2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | N,N-dimethylurea bisphenol A diglycidyl ether | CN(C(=O)N)C.C(C1CO1)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC1CO1 | InChI=1S/C21H24O4.C3H8N2O/c1-21(2,15-3-7-17(8-4-15)22-11-19-13-24-19)16-5-9-18(10-6-16)23-12-20-14-25-20;1-5(2)3(4)6/h3-10,19-20H,11-14H2,1-2H3;1-2H3,(H2,4,6)
